US07544812B2
2-(2-Fluoro-phenoxy)-3(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester:
Cesium carbonate (8.23 g, 25.3 nmol) is added to a solution of 2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester (2.68 g, 8.43 mmol) and toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester (3.88 g, 9.27 mmol) in DMF (30 mL). The resultant mixture is stirred at 65° C. under an atmosphere of nitrogen for 18 h, then diluted with ethyl acetate. The organic layer is washed with 1N HCl, water, and brine. The organic layer is dried, concentrated in vacuo, and purified by flash chromatography (17% acetone in hexanes) to provide the title compound (4.4 g, 93%). 1H NMR 400 MHz, CDCl3): δ 7.19-7.15 (m, 4H), 7.06-7.01 (m, 1H), 6.97-6.87 (m, 3H), 6.83 (d, 2H, J=8.6 Hz), 6.74 (d, 2H, J=8.6 Hz), 4.31, 4.27 (ABq 2H, J=14.8 Hz), 4.21, 4.17 (ABq, 2H, J=7.2 Hz), 3.96-3.92 (m, 2H), 3.76 (s, 3H), 3.60-3.53 (m, 1H), 3.33 (t, 1H, J=8.6 Hz), 3.25, 3.13 (ABq 2H, J=13.8 Hz), 2.994-2.83 (m, 2H), 2.82 (s, 3H), 2.24-2.16 (m, 1H), 1.89-1.80 (m, 1H), 1.37 (s, 3H), 1.22 (t, 3H, J=7.2 Hz). MS [EI+] 565 (M+H)+. Rf=0.56 in 50% acetone in hexanes.

reactant | Cesium carbonate | 25.3 nmol, 8.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | 8.43 mmol, 2.68 g | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester | 9.27 mmol, 3.88 g | COC1=CC=C(CN2C(N(C(C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)C)=O)C=C1 | C21H26N2O5S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Fluoro-phenoxy)-3(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester | 4.4 g, 93% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)(C)OC1=C(C=CC=C1)F)=O | C32H37FN2O6
